US06239131B1
Preparation of 3-[3-[1-(2-toluoylmethyl)-2-oxo-5-benzyloxycarbonyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]benzoic acid
1-[1-(2-Toluoylmethyl)-2-oxo-5-benzyloxycarbonyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea (435 mg) was dissolved in methanol (20 ml), aqueous lithium hydroxide monohydrate (141 mg) solution (10 ml) and tetrahydrofuran (10 ml) were added, the mixture was refluxed for 2 hours. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in water (150 ml), washed with diethyl ether (100 ml), acidified with 1N hydrochloric acid, and extracted with methylene chloride. The organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure, n-hexane was added to the residue for trituration, and collected by filtration, to thereby obtain 301 mg of the titled compound (Yield: 72.5%).

reactant | 1-[1-(2-Toluoylmethyl)-2-oxo-5-benzyloxycarbonyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea | 435 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(=O)OCC2=CC=CC=C2)NC(=O)NC2=CC(=CC=C2)C(=O)OCC)=O)C | C37H36N4O7
reactant | lithium hydroxide monohydrate | 141 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
product | 3-[3-[1-(2-toluoylmethyl)-2-oxo-5-benzyloxycarbonyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]benzoic acid | 301 mg, Yield: 72.5% | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(=O)OCC2=CC=CC=C2)NC(NC=2C=C(C(=O)O)C=CC2)=O)=O)C | C35H32N4O7
